US06809199B2
To a solution of methyl 3,5-dibromo-4-methylbenzoate (150.0 g, 0.487 mol) in 2 L anhydrous CCl4 under a nitrogen atmosphere was added N-bromosuccinimide (125.7 g, 0.706 mol) and benzoyl peroxide (12.98 g, 0.054 mol). The solution was then heated to reflux. Once the solution reached reflux it was irradiated with a 250 W sun lamp. After 6 h the solution was cooled to RT and filtered. The precipitate (succinimde) was washed with DCM and the filtrate concentrated. The residue (ca. 246 g) was purified by silica gel chromatography (3 Kg SiO2) using 5 to 25% DCM/hexanes as the eluent to give methyl-4-bromomethyl-3,5-dibromo-benzoate. 1H NMR(CDCl3, 500 MHz): δ 3.93 (s, 3H), 4.84 (s, 2H), 8.21 (s, 2H). MS(ES) 385 (M+1); LC 1: 3.93 min.

reactant | methyl 3,5-dibromo-4-methylbenzoate | 0.487 mol, 150.0 g | BrC=1C=C(C(=O)OC)C=C(C1C)Br | C9H8Br2O2
reactant | N-bromosuccinimide | 0.706 mol, 125.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.054 mol, 12.98 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 2 L | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl-4-bromomethyl-3,5-dibromo-benzoate | COC(C1=CC(=C(C(=C1)Br)CBr)Br)=O | C9H7Br3O2
